US08283478B2
N-(benzo[b]thien-3-ylmethyl)-sulfamide (Compound #1)
Thianaphthene-3-carboxaldehyde (5 g, 30.8 mmol) was dissolved in THF (50 mL). Sulfamide (12.22 g, 123.30 mmoles) and sulfamic acid (0.29 g, 3.08 mmoles) were added and the reaction mixture heated to 45° C. for 18 h. The reaction mixture was then cooled to room temperature and filtered through a sintered glass funnel. The resulting solution was treated with lithium borohydride (2.0 M in THF, 5 mL, 10 mmol) via addition funnel. After addition (5 minutes) the reaction mixture was stirred for 1 hour. 1N HCl (20 mL, 20 mmol) was added and the reaction mixture concentrated to remove THF. The resulting suspension was treated with water (100 mL) and vigorously stirred. The resulting solid was filtered and dried to yield the title compound as a light pink solid.

reactant | Thianaphthene-3-carboxaldehyde | 30.8 mmol, 5 g | C1=CC=C2C(=C1)C(=CS2)C=O | C9H6OS
reactant | Sulfamide | 123.30 mmoles, 12.22 g | S(=O)(=O)(N)N | H4N2O2S
reactant | sulfamic acid | 3.08 mmoles, 0.29 g | S(N)(O)(=O)=O | H3NO3S
reactant | lithium borohydride | 10 mmol, 2.0 M, 5 mL | [BH4-].[Li+]
reactant | HCl | 20 mmol, 1N, 20 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(benzo[b]thien-3-ylmethyl)-sulfamide | S1C2=C(C(=C1)CNS(=O)(=O)N)C=CC=C2 | C9H10N2O2S2
